US07449582B2
Step F: Preparation of 4-chloromethyl-N-[2,4-dichloro-3-(1-methyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-3-yl)-phenyl]-benzamide
To a solution of 3-(3-amino-2,6-dichloro-phenyl)-1-methyl-1H-[1,6]-naphthyridin-2-one (30 mg, 0.0937 mmol) in the dichloromethane (7 mL) is added 4-(chloromethyl)benzoyl chloride (53.2 mg, 0.28 mmol). After the mixture is stirred 24 hours at room temperature, it is diluted with EtOAc and washed with saturated K2CO3, brine and water. The organic layer is dried, filtered and concentrated to give crude product, which is purified by flash silica gel column elute with CH2Cl2 (100%) gradient to CH2Cl2/MeOH (NH3, 2N)(95/5%) to give the titled intermediate as a solid (32.4 mg, 73.1%).

reactant | 3-(3-amino-2,6-dichloro-phenyl)-1-methyl-1H-[1,6]-naphthyridin-2-one | 0.0937 mmol, 30 mg | NC=1C(=C(C(=CC1)Cl)C=1C(N(C2=CC=NC=C2C1)C)=O)Cl | C15H11Cl2N3O
reactant | 4-(chloromethyl)benzoyl chloride | 0.28 mmol, 53.2 mg | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloromethyl-N-[2,4-dichloro-3-(1-methyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-3-yl)-phenyl]-benzamide | 32.4 mg, 73.1% | ClCC1=CC=C(C(=O)NC2=C(C(=C(C=C2)Cl)C=2C(N(C3=CC=NC=C3C2)C)=O)Cl)C=C1 | C23H16Cl3N3O2
